Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Right-sided facial droop, intermittent headache
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ year old female with history of diabetes and
a prior stroke who presents with acute onset of facial droop. 
She
says that for the past three days, she has had occasional
episodes of a headache that she describes as occasional "pulses"
in her right parietal area. She says that she got up this 
morning
and was feeling in her usual state of health. She got on the bus
to go see her doctor around 9am. While on the bus, she developed
acute onset of a "swelling" sensation of the left side of her
face. She went to her clinic appointment, where apparently they
noticed a facial droop and they called EMS. When her daughter
arrived at the clinic, she said that Ms. ___ had a left 
sided
facial droop but upon arriving to the hospital, she says that
that has improved. Of note, she says that there had been a
problem with her insurance, and she had run out of her
medications two weeks ago. 

Ms. ___ says that she was diagnosed with a stroke in ___.
She says that she felt like something hit her in the face and
then she could not see out of her left eye. She says that she 
was
seen at ___ and was found to have a blood clot in 
her
head and her arm, and she was started on Coumadin. She has been
continued on this medication for the past ___ years.

Ms. ___ said that she still occasionally feels the pulse in
the right side of her head. She denies loss of vision, blurred
vision, diplopia, dysphagia, lightheadedness, vertigo. Denies
difficulties producing or comprehending speech. Denies focal
weakness, numbness, parasthesiae. On general review of systems,
she denies recent fever and infectious symptoms.
 
Past Medical History:
Stroke in ___
Diabetes
Hypercholesterolemia
 
Social History:
___
Family History:
No known neurological disorders
 
Physical Exam:
Physical Exam:  
General: Awake, cooperative, NAD.  
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions in the
ear canal
Neck: Supple
Pulmonary: No increased WOB
Cardiac: RRR
Abdomen: soft, non-distended
Extremities: WWP
Skin: no rashess or lesions noted.  
  
Neurologic:  
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Language is fluent with intact repetition 
and
comprehension. Normal prosody. There were no paraphasic errors.
Pt. was able to name both high and low frequency objects. Speech
was mildly dysarthric. Able to follow both midline and
appendicular commands. There was no evidence of neglect.  
  
-Cranial Nerves: II: PERRL 3 to 2mm and brisk. VFF to
confrontation. III, IV, VI: EOMI without nystagmus. Normal
saccades.  V: Diminished sensation to light touch on the right,
diminished sensation to pin prick on the right VII: right sided
facial droop, inability to puff out cheeks with air escaping 
from
the right, able to overcome closure of the right eye, diminished 

taste on the right tongue VIII: diminished hearing on the right 
IX, X: Palate elevates symmetrically.  XI: ___ strength in 
trapezii 
and SCM bilaterally. XII: Tongue protrudes in midline with 
normal 
strength  
  
-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.  
No adventitious movements, such as tremor, noted. No asterixis
noted.  
 Delt Bic Tri WrE  IO IP Quad Ham TA Gastroc
L 5    ___   ___    5   5    5 
R 5    ___   ___    5   5    5 
  
-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense, proprioception throughout. No extinction to 
DSS.
  
-DTRs:  
 Bi Tri ___ Pat Ach  
L 2  2    2    2   1  
R 2  2    2    2  1  
Plantar response was mute bilaterally.    

-Coordination: No intention tremor, no dysmetria on FNF or HKS
bilaterally.  
  
-Gait: deferred
 
Pertinent Results:
LABS:

___ 10:45AM BLOOD WBC-9.2 RBC-5.35* Hgb-15.0 Hct-43.7 
MCV-82 MCH-28.0 MCHC-34.3 RDW-12.4 RDWSD-36.5 Plt ___
___ 10:45AM BLOOD ___ PTT-31.5 ___
___ 05:25AM BLOOD ALT-21 AST-18
___ 05:25AM BLOOD %HbA1c-10.6* eAG-258*
___ 05:25AM BLOOD ___ PTT-31.2 ___

****************

IMAGING:

CTA head/neck ___:
IMPRESSION: 
1. No acute intracranial abnormalities identified. 
2. Complete occlusion, likely chronic, of the right internal 
carotid artery at the level C2/C3, with slight reflux into the 
cavernous carotid.  
Reconstitution of the right MCA is seen.  Otherwise, patent 
circle ___ 
without evidence of aneurysm or occlusion. 

MRI/MRA ___:
IMPRESSION: 
1. No evidence of an acute infarction. 
2. Re demonstrated is complete occlusion of right internal 
carotid artery at the level of C2/C3.  There is reconstitution 
of the right MCA.  Otherwise, circle of ___ is patent without 
evidence of aneurysm or occlusion. 
3. Unremarkable MRV with patent dural venous sinuses. 

CXR 2v ___:
IMPRESSION:  
No acute cardiopulmonary process. 
 
Brief Hospital Course:
Patient was admitted for right-sided facial droop. MRI negative 
for acute stroke. CTA head/neck demonstrated right ICA occlusion 
which was chronic. On examination she had right facial weakness 
involving upper division of face, consistent with peripheral 
nerve palsy. She was discharged with prescription for 
valacyclovir. Her diabetes mellitus was found to be poorly 
controlled, with HbA1c of 10.6. She was arranged for follow up 
with her PCP to address this and to discuss indication for 
continuing anticoagulation.

She also reported unable to refill her medications x1 week due 
to insurance issues; she was referred to case manager for 
insurance application. INR was subtherapeutic at 1.4 however it 
was felt this was unlikely to be indicated from a stroke 
perspective. She was given Rx for all of her medications on 
discharge and was encouraged to follow up with her PCP for 
subsequent refills and to clarify indication for 
anticoagulation.

Transitional issues:
[ ] Please address her hypoglycemic regimen as she is poorly 
controlled with po agents alone (A1c 10.6).
[ ] Please review indication for anticoagulation as it is not 
clear that this is indicated for stroke prevention (we recommend 
aspirin for stroke prevention instead).
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Warfarin 2 mg PO DAILY16 
2. GlyBURIDE 5 mg PO BID 
3. MetFORMIN (Glucophage) 850 mg PO TID 
4. Atorvastatin 80 mg PO QPM 

 
Discharge Medications:
1. Warfarin 2 mg PO DAILY16 
RX *warfarin 2 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
2. Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*1
3. GlyBURIDE 5 mg PO BID 
RX *glyburide 5 mg 1 tablet(s) by mouth twice daily Disp #*60 
Tablet Refills:*1
4. MetFORMIN (Glucophage) 850 mg PO TID 
RX *metformin 850 mg 1 tablet(s) by mouth three times daily Disp 
#*90 Tablet Refills:*1
5. ValACYclovir 1000 mg PO Q24H Duration: 7 Days 
RX *valacyclovir 1,000 mg 1 tablet(s) by mouth daily Disp #*7 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right Bell's palsy 
Poorly controlled diabetes mellitus 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted for weakness of your right face. We performed 
imaging of your brain which showed no stroke, and demonstrated a 
blockage in one of your blood vessels which is not new. Your 
facial weakness possibly occurred due to a viral infection or 
your diabetes, which is not well controlled. You should take an 
anti-viral medication called Valacyclovir for one week. You 
should follow up with your primary care provider to discuss 
better control of your diabetes as well as to clarify why you 
are on Coumadin.

improve with time.
 
Followup Instructions:
___